datasets/10k_Proton_Transfer_OG.csv
SMILES Labelled,
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C2C[NH:10]2)cc1>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.c1ccc(C2C[NH+:10]2[H:20])cc1 10=20;20,21=21",
"[NH3+]c1ccc(/C=N/NC(=O)c2cc[n+:21]([H:20])cc2)cc1.[O-][n+]1cnc2[nH]c[n:10]c2c1NCc1ccccc1>>[NH3+]c1ccc(/C=N/NC(=O)c2cc[n:21]cc2)cc1.[O-][n+]1cnc2[nH]c[n+:10]([H:20])c2c1NCc1ccccc1 10=20;20,21=21",
"CC1=CC(C)=Nc2ccc(C)cc2[N-:10]1.O=C(c1ccc(O)cc1)[O:21][H:20]>>CC1=CC(C)=Nc2ccc(C)cc2[N:10]1[H:20].O=C(c1ccc(O)cc1)[O-:21] 10=20;20,21=21",
"O=C([O-])CCCCCCCCC[NH2+:21][H:20].[NH3+]C(c1cccc(O)c1O)P(=O)([O-])[O-:10]>>O=C([O-])CCCCCCCCC[NH2:21].[NH3+]C(c1cccc(O)c1O)P(=O)([O-])[O:10][H:20] 10=20;20,21=21",
"CN(C)/C=N/c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CN(C)/C=N/c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"O=S(=O)(C(F)(F)Cl)[NH-:10].[NH3+]CCCC[NH2+:21][H:20]>>O=S(=O)(C(F)(F)Cl)[NH:10][H:20].[NH3+]CCCC[NH2:21] 10=20;20,21=21",
"C[NH+](C)CC[N+:21](C)(C)[H:20].O=C(c1c(Cl)cccc1[N+](=O)[O-])[O-:10]>>C[NH+](C)CC[N:21](C)C.O=C(c1c(Cl)cccc1[N+](=O)[O-])[O:10][H:20] 10=20;20,21=21",
"COC1=CC2CCC1(C(=O)[O:21][H:20])CC2.C[N+](C)(C)CCCc1cccc([O-:10])c1>>COC1=CC2CCC1(C(=O)[O-:21])CC2.C[N+](C)(C)CCCc1cccc([O:10][H:20])c1 10=20;20,21=21",
"Clc1cnc2c(ccc3ccc[n:10]c32)c1.Nc1nc(N)[n+:21]([H:20])c2[nH]ncc12>>Clc1cnc2c(ccc3ccc[n+:10]([H:20])c32)c1.Nc1nc(N)[n:21]c2[nH]ncc12 10=20;20,21=21",
"CC(C)CS(=O)[O:21][H:20].CC1=CC(=O)Oc2cc([O-:10])c(Cl)cc21>>CC(C)CS(=O)[O-:21].CC1=CC(=O)Oc2cc([O:10][H:20])c(Cl)cc21 10=20;20,21=21",
"CC[N+:21](CC)(CCBr)[H:20].c1cc[n:10]nc1>>CC[N:21](CC)CCBr.c1cc[n+:10]([H:20])nc1 10=20;20,21=21",
"CCCC(=O)OCC[N:10](C)C.O=Cc1c(Cl)cccc1[O:21][H:20]>>CCCC(=O)OCC[N+:10](C)(C)[H:20].O=Cc1c(Cl)cccc1[O-:21] 10=20;20,21=21",
"O=C(c1cccc(O)c1)[O:21][H:20].O=[N+]([O-])c1ccc([N-:10]C=S)cc1>>O=C(c1cccc(O)c1)[O-:21].O=[N+]([O-])c1ccc([N:10](C=S)[H:20])cc1 10=20;20,21=21",
"CC(C)[NH2+]CC(=O)c1ccc([O-:10])cc1.[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O>>CC(C)[NH2+]CC(=O)c1ccc([O:10][H:20])cc1.[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O 10=20;20,21=21",
"Oc1ccccc1/C=[NH+]/c1ccc(-c2ccc([NH2+:21][H:20])cc2)cc1.c1ccc([N:10](CC2CO2)CC2CO2)cc1>>Oc1ccccc1/C=[NH+]/c1ccc(-c2ccc([NH2:21])cc2)cc1.c1ccc([N+:10](CC2CO2)(CC2CO2)[H:20])cc1 10=20;20,21=21",
"CCCCCCP(=O)(CCCCCC)[O:21][H:20].O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)[O-])c1[O-:10]>>CCCCCCP(=O)(CCCCCC)[O-:21].O=C([O-])C[NH+](CC(=O)[O-])Cc1cc(Cl)cc(C[NH+](CC(=O)[O-])CC(=O)[O-])c1[O:10][H:20] 10=20;20,21=21",
"Cc1cc(-c2cc(C)n(C)[n+:21]2[H:20])[nH+]n1C.NC(=O)CN(CC(=O)O)CC(=O)[O-:10]>>Cc1cc(-c2cc(C)n(C)[n:21]2)[nH+]n1C.NC(=O)CN(CC(=O)O)CC(=O)[O:10][H:20] 10=20;20,21=21",
"CCOC(=O)C(C)[NH2+:21][H:20].CCOCC[NH:10]c1ccc(OC)cc1>>CCOC(=O)C(C)[NH2:21].CCOCC[NH+:10](c1ccc(OC)cc1)[H:20] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(Cl)C([N+](=O)[O-])=C2)[H:20])=C1.OCC[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(Cl)C([N+](=O)[O-])=C2)=C1.OCC[O:10][H:20] 10=20;20,21=21",
"O=C([O-])c1ccc[n:10]c1.O=C(c1ccc(Br)s1)[O:21][H:20]>>O=C([O-])c1ccc[n+:10]([H:20])c1.O=C(c1ccc(Br)s1)[O-:21] 10=20;20,21=21",
"COC(=O)C/C(=N/[O-:10])C(C)=NO.C[N+:21](C)(CCCCCCCNC(=O)/C=N/[O-])[H:20]>>COC(=O)C/C(=N/[O:10][H:20])C(C)=NO.C[N:21](C)CCCCCCCNC(=O)/C=N/[O-] 10=20;20,21=21",
"CC(C)(C)OOCC(=O)[O:21][H:20].CC(C)(O[O-:10])c1ccccc1>>CC(C)(C)OOCC(=O)[O-:21].CC(C)(O[O:10][H:20])c1ccccc1 10=20;20,21=21",
"CCN(CC)/[N:10]=C(/N)CC[Si](C)(C)C.CCO/C(C)=[NH+:21]\[H:20]>>CCN(CC)/[N+:10](=C(/N)CC[Si](C)(C)C)[H:20].CCOC(C)=[NH:21] 10=20;20,21=21",
"C[N+]1=CC=CC(C(=O)[CH:21](C2=CC=C(C#N)C=C2)[H:20])=C1.OCC[O-:10]>>C[N+]1=CC=CC(C(=O)[CH-:21]C2=CC=C(C#N)C=C2)=C1.OCC[O:10][H:20] 10=20;20,21=21",
"CC(S)C(=O)[O-:10].Nc1ccc(S(=O)(=O)[N:21](c2ncccc2O)[H:20])cc1>>CC(S)C(=O)[O:10][H:20].Nc1ccc(S(=O)(=O)[N-:21]c2ncccc2O)cc1 10=20;20,21=21",
"CC(C)[C@H]1C[NH2+][C@H](C(=O)[O-:10])[C@H]1CC(=O)O.O=C(c1c2ccccc2[nH+]c2ccccc12)[O:21][H:20]>>CC(C)[C@H]1C[NH2+][C@H](C(=O)[O:10][H:20])[C@H]1CC(=O)O.O=C(c1c2ccccc2[nH+]c2ccccc12)[O-:21] 10=20;20,21=21",
"COC(=O)[C@H]1[C@@H]2Cc3c4c(cc[n+]3C[C@H]2CC[C@H]1O)c1ccccc1[n-:10]4.O=C(c1cccc(O)c1)[O:21][H:20]>>COC(=O)[C@H]1[C@@H]2Cc3c4c(cc[n+]3C[C@H]2CC[C@H]1O)c1ccccc1[n:10]4[H:20].O=C(c1cccc(O)c1)[O-:21] 10=20;20,21=21",
"CCCCCc1c(-c2ccccc2)n[nH]c1[O:21][H:20].O=C(c1cccc(F)c1)[O-:10]>>CCCCCc1c(-c2ccccc2)n[nH]c1[O-:21].O=C(c1cccc(F)c1)[O:10][H:20] 10=20;20,21=21",
"C=CC[NH+](CC=C)CCC[N+:21](CC=C)(CC=C)[H:20].COc1ccc(C(=S)[N-:10]c2ccc(OC)cc2)cc1>>C=CC[NH+](CC=C)CCC[N:21](CC=C)CC=C.COc1ccc(C(=S)[N:10](c2ccc(OC)cc2)[H:20])cc1 10=20;20,21=21",
"CCCCCC[N:10](CC(C)O)CC(O)CC.CCOC(=O)CCCC[NH2+:21][H:20]>>CCCCCC[N+:10](CC(C)O)(CC(O)CC)[H:20].CCOC(=O)CCCC[NH2:21] 10=20;20,21=21",
"[H][C:21]1([H:20])C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCC[NH2+]CCC[NH2:10]>>[H][C-:21]1C(=O)C2=C(C=CC=C2)C1=O.[NH3+]CCCC[NH2+]CCC[NH2+:10][H:20] 10=20;20,21=21",
"S=C1c2[nH]nnc2N=C[N-:10]1.[NH3+]NC(=O)c1cc[n+:21]([H:20])cc1>>S=C1c2[nH]nnc2N=C[N:10]1[H:20].[NH3+]NC(=O)c1cc[n:21]cc1 10=20;20,21=21",
